US04012512
60 ml of sodium hypochlorite solution (13%) is added dropwise at ca. 30° C internal temperature, with continuous stirring, to a solution of 3 g of potassium hydroxide in 150 ml of ethanol and 7 g of 2-amino-4-(4'-methylphenylthio)-nitrobenzene. After completion of the addition, stirring is continued for half an hour at room temperature; the precipitated product is filtered off with suction and then washed with 200 ml of water. Recrystallisation from ethanol yields 5.8 g (= 83.5% of theory) of 5-(4'-methylphenylthio)-benzofurazan-N-oxide, M.P. 86°-88° C.

reactant | sodium hypochlorite | 60 ml | Cl[O-].[Na+]
reactant | potassium hydroxide | 3 g | [OH-].[K+]
reactant | 2-amino-4-(4'-methylphenylthio)-nitrobenzene | 7 g | NC1=C(C=CC(=C1)SC1=CC=C(C=C1)C)[N+](=O)[O-] | C13H12N2O2S
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-(4'-methylphenylthio)-benzofurazan-N-oxide | 5.8 g, 83.5% | CC1=CC=C(C=C1)SC=1C=CC=2C(=NO[N+]2[O-])C1 | C13H10N2O2S
